US08183271B2
1-Allyl 7-ethyl 2-allyloxycarbonylheptanedioate
16.29 g (407.19 mmol) of sodium hydride are added in portions to a solution of 100 g (542.92 mmol) of diallyl malonate in 900 ml of dry dioxane at 5° C. After gas evolution ceases, the reaction mixture is warmed to 40° C. and stirred for 30 min. Then 56.76 g (271.46 mmol) of ethyl 5-bromovalerate in 100 ml of dry dioxane are added dropwise, and the mixture is stirred at 110° C. for 12 hours. After the reaction is complete, the mixture is cooled to room temperature and added to about 400 ml of ice-water. After neutralization with 1 N hydrochloric acid, the organic phase is separated off, and the aqueous phase is extracted three times with 250 ml of ethyl acetate each time. After the organic phases have been combined they are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated in vacuo. Subsequently excess diallyl malonate is removed by high vacuum distillation (boiling point: 57° C., 0.074 mbar). The resulting distillation residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 2:1). 73.92 g (236.65 mmol, 44% of theory) of a colorless liquid are obtained.

reactant | sodium hydride | 407.19 mmol, 16.29 g | [H-].[Na+]
reactant | diallyl malonate | 542.92 mmol, 100 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | ethyl 5-bromovalerate | 271.46 mmol, 56.76 g | BrCCCCC(=O)OCC | C7H13BrO2
solvent | dioxane | 900 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Allyl 7-ethyl 2-allyloxycarbonylheptanedioate | C(C=C)OC(=O)C(C(=O)OCC=C)CCCCC(=O)OCC | C16H24O6
